US05712267
116(1) 2S,4S)-2-(3-Aminoazetidin-1-ylcarbonyl-4-(4-methoxybenzylthio)-1-methylpyrrolidine
1.62 g of (2S,4S)-4-(4-methoxybenzylthio)-1-methyl-2-pyrrolidinecarboxylic acid were suspended in 20 ml of dry acetonitrile, and 1.02 g of N,N'-carbonyldiimidazole were added to the suspension, after which the mixture was stirred at 40° C. for 45 minutes. A solution of 1.00 g of 3-aminoazetidine dihydrochloride and 2.40 ml of diisopropylethylamine in 10 ml of methanol was added dropwise to the mixture, whilst ice-cooling, and the mixture was stirred at the same temperature for 90 minutes. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure. The resulting residue was subjected to reverse phase column chromatography (Cosmosil 75C18 -PREP, manufactured by Nacalai Tesque, 145 g) to give 1.21 g of the title compound, as a colorless oil, from the fraction obtained by solution with 30% by volume aqueous acetonitrile.

reactant | (2S,4S)-4-(4-methoxybenzylthio)-1-methyl-2-pyrrolidinecarboxylic acid | 1.62 g | COC1=CC=C(CS[C@H]2C[C@H](N(C2)C)C(=O)O)C=C1 | C14H19NO3S
reactant | 3-aminoazetidine dihydrochloride | 1.00 g | Cl.Cl.NC1CNC1
reactant | diisopropylethylamine | 2.40 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | methanol | 10 ml | CO | CH4O
product | 3-Aminoazetidin-1-ylcarbonyl-4-(4-methoxybenzylthio)-1-methylpyrrolidine | 1.21 g | NC1C(N(CC1SCC1=CC=C(C=C1)OC)C)C(=O)N1CCC1 | C17H25N3O2S
